US06590101B2
300 g of ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 106.8 g of water, and 426 g of acetic acid were introduced and 3.8 g of sulfuric acid were added. The mixture was heated at reflux for 3 hours. 310 ml of distillate were then distilled off until a bottom temperature of 109° C. was reached. The mixture was then cooled to 80° C. and 157.5 g of 4.8% strength by weight sodium acetate solution were added dropwise. The pH was then in the range 3 to 4. The mixture was then cooled to 20° C. and the solid was filtered off with suction. The solid was washed with 200 ml of water and dried in vacuo at 50° C. 270.3 g of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid were isolated, which corresponds to a yield of 99% of theory.

reactant | ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 300 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
reactant | water | 106.8 g | O | H2O
catalyst | sulfuric acid | 3.8 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 426 g | C(C)(=O)O | C2H4O2
product | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 270.3 g, yield of 99% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
